US08486919B2
To a tetrahydrofuran solution (10 ml) of 4-isopropylresorcinol (466 mg), sodium hydride (60% dispersion in liquid paraffin) (269 mg) was added and stirred at 0° C. for 30 minutes. Then, dibenzyl chlorophosphate (10 w/v % solution in benzene) (20 ml) was added dropwise. After stirring at room temperature for 3 hours, water (30 ml) was added to the reaction mixture, and the extraction was carried out with ethyl acetate (30 ml). Then, the extract was washed with saturated brine (20 ml), dried with anhydrous sodium sulfate and then concentrated. The residue (2.23 g) was subjected to silica gel chromatography (silica gel 76 g, chloroform to chloroform:methanol=70:1), to give 1,3-bis(dibenzylphosphonooxy)-4-isopropylbenzene (1.71 g, yield: 83%) as a yellow liquid.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 4-isopropylresorcinol | 466 mg | C(C)(C)C1=C(C=C(O)C=C1)O | C9H12O2
reactant | sodium hydride | 269 mg | [H-].[Na+]
reactant | dibenzyl chlorophosphate | 20 ml | P(=O)(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)Cl | C14H14ClO3P
solvent | water | 30 ml | O | H2O
product | 1,3-bis(dibenzylphosphonooxy)-4-isopropylbenzene | 1.71 g, yield: 83% | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC(=C(C=C1)C(C)C)OP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C37H38O8P2
